US07897823B2
1,1,1,2,3,3-Hexafluoro-2-(trifluoromethyl)-pentane ((CF3)2CFCF2CH2CH3) may be prepared by the reaction of 1,1,1,2,3,3-hexafluoro-2-(trifluoromethyl)-3-iodo-propane with ethylene to give 1,1,1,2,3,3-hexafluoro-2-(trifluoromethyl)-5-iodopentane followed by zinc reduction in an acid such as HCl or acetic acid.

reactant | 1,1,1,2,3,3-Hexafluoro-2-(trifluoromethyl)-pentane | FC(C(C(CC)(F)F)(C(F)(F)F)F)(F)F | C6H5F9
reactant | 1,1,1,2,3,3-hexafluoro-2-(trifluoromethyl)-3-iodo-propane | FC(C(C(I)(F)F)(C(F)(F)F)F)(F)F | C4F9I
reactant | ethylene | C=C | C2H4
product | 1,1,1,2,3,3-hexafluoro-2-(trifluoromethyl)-5-iodopentane | FC(C(C(CCI)(F)F)(C(F)(F)F)F)(F)F | C6H4F9I
